US07074777B2
(2) 1α,3β-bis(tert-butyldimethylsilyloxy)-17β-(hydroxymethyl)androst-5-ene
To 1α,3β-bis(tert-butyldimethylsilyloxy)-17-methyleneandrost-5-ene (30.3 g), was added 9-borabicyclo[3,3,1]nonane (0.5M solution in tetrahydrofuran, 228 ml) and reacted by stirring at room temperature for 4 hours. Under cooling with ice, a 3M sodium hydroxide solution (150 ml) and then a 30% hydrogen peroxide solution (150 ml) were added to the reaction mixture, followed by stirring at room temperature for 1 hour. The reaction mixture was extracted with ethyl acetate, the organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure to remove the solvent, giving crude crystals (37.3 g). The crude crystals were mixed with methanol, stirred while under suspension, filtered and the thus obtained crystals were dried to give the titled compound (24.3 g).

reactant | 1α,3β-bis(tert-butyldimethylsilyloxy)-17-methyleneandrost-5-ene | 30.3 g | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@@]12C)=C)O[Si](C)(C)C(C)(C)C | C32H58O2Si2
reactant | 9-borabicyclo[3,3,1]nonane | 0.5M, 228 ml | C12CCCC(CCC1)B2 | C8H15B
reactant | sodium hydroxide | 3M, 150 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 150 ml | OO | H2O2
solvent | methanol | CO | CH4O
product | 1α,3β-bis(tert-butyldimethylsilyloxy)-17β-(hydroxymethyl)androst-5-ene | 24.3 g | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@@]12C)CO)O[Si](C)(C)C(C)(C)C | C32H60O3Si2
